US07820700B2
In 3 ml of DMSO was dissolved 247 mg of methyl 2-(3-cyano-4-fluorophenyl)isonicotinate, and 0.31 ml of aminomethylcyclohexane was added thereto. After being stirred at 40° C. for 17 hours, the reaction solution was diluted with ethyl acetate and washed with water and brine, successively. The organic layer was dried and concentrated under reduced pressure and then recrystallization was performed from a mixed solvent of diisopropyl ether and hexane to obtain 266 mg of methyl 2-{3-cyano-4-[(cyclohexylmethyl)amino]phenyl}isonicotinate. (2) Then, 266 mg of the compound was dissolved in a mixed solvent of 5 ml of methanol and 10 ml of THF, and 1.14 ml of a 1M aqueous sodium hydroxide solution was added thereto, followed by heating at 80° C. for 1 hour. After cooling, the reaction solution was diluted with water and washed with diethyl ether. The resulting aqueous layer was neutralized with 1M hydrochloric acid and extracted with ethyl acetate and the organic layer was dried and concentrated under reduced pressure. The resulting residue was recrystallized from a mixed solvent of ethanol and water to obtain 199 mg of 2-{3-cyano-4-[(cyclohexylmethyl)amino]phenyl}isonicotinic acid. Then, 199 mg of the compound was dissolved in 10 ml of ethanol and 0.59 ml of a 1M aqueous sodium hydroxide solution was added thereto. After stirring at room temperature for 15 minutes, the reaction solution was concentrated. The resulting residue was washed with 2-propanol to obtain 181 mg of sodium 2-{3-cyano-4-[(cyclohexylmethyl)amino]phenyl}isonicotinate.

reactant | methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | 247 mg | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
reactant | aminomethylcyclohexane | 0.31 ml | NCC1CCCCC1 | C7H15N
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-{3-cyano-4-[(cyclohexylmethyl)amino]phenyl}isonicotinate | 266 mg | C(#N)C=1C=C(C=CC1NCC1CCCCC1)C=1C=C(C(=O)OC)C=CN1 | C21H23N3O2
